US05386050
In the same apparatus and procedures as EXAMPLE 1, 6.0 g (0.027 mole) of 3-phenyl-1,1-dichloro-1-silabutane, 4.1 g (0.05 mole) of cyclohexene, and 90 μl of 1% chloroplatinic acid in isopropanol were placed under the dry nitrogen atmosphere. The reactor was sealed and the solution was stirred for 3 hours. Vacuum distillation of the reaction products gave 7.4 g (bp, 157°-9° C./0.05 mmHg) of 1-cyclohexyl-1,1-dichloro-3-phenyl-1-silabutane.

reactant | 3-phenyl-1,1-dichloro-1-silabutane | 0.027 mole, 6.0 g | C1(=CC=CC=C1)C(C[SiH](Cl)Cl)C | C9H12Cl2Si
reactant | cyclohexene | 0.05 mole, 4.1 g | C1=CCCCC1 | C6H10
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | chloroplatinic acid | 90 μl | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 1-cyclohexyl-1,1-dichloro-3-phenyl-1-silabutane | 7.4 g | C1(CCCCC1)[Si](CC(C)C1=CC=CC=C1)(Cl)Cl | C15H22Cl2Si
